US04385179
A mixture of water (300 ml), 3,6-dichloropyridazine (29.8 g; 0.2 mole), methylhydrazine (9.2 g; 0.2 mole), and sodium bicarbonate (17.8 g; 0.2 mole), is heated to the reflux temperature for two hours. After cooling to about 60° C., acetonylacetone (22.2 g; 0.2 mole) is added and stirring is prosecuted for further 1 hour. Then the mixture is neutralized with hydrochloric acid and the obtained precipitate is collected and crystallized from ethyl ether, yielding 28 g (59.2%) of 6-chloro-N-(2,5-dimethyl-1H-pyrrol-1-yl)-N-methyl-3-pyridazineamine, whose structure is confirmed by I.R. and NMR spectra. M.p. 93°-94.5° C.

reactant | 3,6-dichloropyridazine | 0.2 mole, 29.8 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | methylhydrazine | 0.2 mole, 9.2 g | CNN | CH6N2
reactant | sodium bicarbonate | 0.2 mole, 17.8 g | C([O-])(O)=O.[Na+]
reactant | acetonylacetone | 0.2 mole, 22.2 g | C(C(=O)C)CC(C)=O | C6H10O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 6-chloro-N-(2,5-dimethyl-1H-pyrrol-1-yl)-N-methyl-3-pyridazineamine | 28 g, 59.2% | ClC1=CC=C(N=N1)N(C)N1C(=CC=C1C)C | C11H13ClN4
